US04640915
A mixture of 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-thiadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (50 mg) and platinum (IV) oxide monohydrate (50 mg) in a mixture of dioxane (6 ml), ethanol (0.5 ml), 0.1M aqueous dipotassium hydrogen phosphate (2.28 ml) and water (2.5 ml) was shaken for 1.5 hours under a hydrogen atmosphere (40 psi) at ambient temperature. The catalyst was filtered off and the filtrate was concentrated to half of the original volume. The aqueous concentrate was washed three times with diethyl ether and evaporated in vacuo. The residue was dissolved in water (25 ml) and potassium chloride (1.25 g) was added. The aqueous solution was chromatographed on non-ionic adsorption resin, "Diaion HP-20 AG" (Trademark, manufactured by Mitsubishi Chemical Industries Ltd.) (1.2×22 cm), eluting with water (150 ml) and aqueous isopropyl alcohol (5 to 30%, 100 ml). The fractions, whose UV spectra showed λmax 293 nm, were combined and lyophilized to give potassium (5R,6R)-6-(1-hydroxy-1-methylethyl)-3-(5-methyl-1,3,4-thiadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (16.9 mg).

reactant | 4-nitrobenzyl (5R,6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-thiadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 50 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1SC(=NN1)C | C28H25N5O10S2
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | dipotassium hydrogen phosphate | 0.1M, 2.28 ml | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | water | 2.5 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | platinum (IV) oxide monohydrate | 50 mg | O.[Pt](=O)=O
product | potassium (5R,6R)-6-(1-hydroxy-1-methylethyl)-3-(5-methyl-1,3,4-thiadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 16.9 mg | OC(C)(C)[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])SC=1SC(=NN1)C.[K+] | InChI=1S/C13H15N3O4S2.K/c1-5-14-15-12(21-5)22-7-4-6-8(13(2,3)20)10(17)16(6)9(7)11(18)19;/h6,8,20H,4H2,1-3H3,(H,18,19);/q;+1/p-1/t6-,8+;/m1./s1
